US04405628
1,3-Dihydro-4-methyl-5-benzoyl-2H-imidazole-2-thione
In a like manner, but substituting 2-amino-1-(2,3-methylenedioxyphenyl)-1,3-pentadione; 2-amino-4-methyl-1-[2-(1H-pyrryl)]-1,3-pentadione; or 2-amino-1-(4-pyridyl)-1,3-hexadione for 2-amino-1-phenyl-1-3-butadione in the above example, results in 1,3-dihydro-4-ethyl-5-(2,3-methylenedioxybenzoyl)-2H-imidazole-2-thione; 1,3-dihydro-4-isopropyl-5-[2-(1H-pyrrolyl]-2H-imidazole-2-thione; or 1,3-dihydro-4-propyl-5-isonicotinoyl-2H-imidazole-2-thione, respectively.

reactant | 1,3-dihydro-4-propyl-5-isonicotinoyl-2H-imidazole-2-thione | C(CC)C=1NC(NC1C(C1=CC=NC=C1)=O)=S | C12H13N3OS
reactant | 1,3-dihydro-4-ethyl-5-(2,3-methylenedioxybenzoyl)-2H-imidazole-2-thione | C(C)C=1NC(NC1C(C1=C2C(=CC=C1)OCO2)=O)=S | C13H12N2O3S
product | 1,3-Dihydro-4-methyl-5-benzoyl-2H-imidazole-2-thione | CC=1NC(NC1C(C1=CC=CC=C1)=O)=S | C11H10N2OS
